US07691882B2
3-Butoxy-benzaldehyde
3-Hydroxybenzaldehyde (3 g, 24.6 mmol) and potassium carbonate (10.2 g, 73.8 mmol) were suspended in N,N-dimethylformamide (60 mL). 1-Bromobutane (3.17 mL, 29.5 mmol) was added to this suspension and stirred for 19 hours at room temperature. This mixture was partitioned into ethyl acetate and water. This organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (4.23 g).

reactant | 3-Hydroxybenzaldehyde | 24.6 mmol, 3 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 73.8 mmol, 10.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromobutane | 29.5 mmol, 3.17 mL | BrCCCC | C4H9Br
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 3-Butoxy-benzaldehyde | 4.23 g | C(CCC)OC=1C=C(C=O)C=CC1 | C11H14O2
